US04668703
Ethyl 4-amino-5,6-heptadienoate hydrochloride salt
To 4-amino-5,6-heptadienoic acid in anhydrous ethanol at 0° C. was added gaseous HCl. The reaction was left overnight at room temperature and then evacuated to a residue. This was taken in ethyl acetate, decolorized with charcoal, and then crystallization accomplished from ethyl acetate-ether to give the title compound. mp. 81°-83° C.; IR (KBr): 1952, 1710 cm-1. 'H NMR (δD2O): 1.3 (t, 3H, J=6.9 Hz, CH3), 1.9-2.8 (m, 4H, CH2CH2), 3.95 (m, 1H, CHN), 4.2 (q, 2H, J=6.9 Hz, OCH2), 5.0-5.4 (m, 3H H2C=C=CH). Anal. Calcd. for C9H16ClNO2 : C, 52.56, H, 7.84, N, 6.87; Found: C, 52.45, H, 7.95, N, 6.98.

reactant | 4-amino-5,6-heptadienoic acid | NC(CCC(=O)O)C=C=C | C7H11NO2
reactant | HCl | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 4-amino-5,6-heptadienoate hydrochloride salt | Cl.NC(CCC(=O)OCC)C=C=C | InChI=1S/C9H15NO2.ClH/c1-3-5-8(10)6-7-9(11)12-4-2;/h5,8H,1,4,6-7,10H2,2H3;1H
